US06348032B1
In a nitrogen environment, 5% palladium-carbon is added to an ethanol (910 ml) solution of 6-ethoxycarbonyl-2-methyl-1-[4-(2-phenylethenyl)benzyl]benzimidazole (0.320 g). The solution is stirred for 23 hours under a nitrogen environment. Solids are separated through filtration, the filtrate is concentrated, and thus, 6-ethoxycarbonyl-2-methyl-1-[4-(2-phenylethyl)benzyl]-benzimidazole is obtained. This material is immediately used for the following reaction.

reactant | 6-ethoxycarbonyl-2-methyl-1-[4-(2-phenylethenyl)benzyl]benzimidazole | 0.320 g | C(C)OC(=O)C=1C=CC2=C(N(C(=N2)C)CC2=CC=C(C=C2)C=CC2=CC=CC=C2)C1 | C26H24N2O2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethanol | 910 ml | C(C)O | C2H6O
product | 6-ethoxycarbonyl-2-methyl-1-[4-(2-phenylethyl)benzyl]-benzimidazole | C(C)OC(=O)C=1C=CC2=C(N(C(=N2)C)CC2=CC=C(C=C2)CCC2=CC=CC=C2)C1 | C26H26N2O2
